US07786132B2
(v) 2-(2-(2-oxoimidazolidin-1-yl)ethylamino)-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidine-5-carbonitrile
4-(5-Bromothiophen-2-yl)-2-(2-(2-oxoimidazolidin-1-yl)ethylamino)pyrimidine-5-carbo-nitrile (0.08 g, 0.2 mmol), thiophen-2-ylboronic acid (0.052 g, 04 mmol), sodium carbonate (1.5 mL of 2 M solution, 1 mmol) were added to a microwave tube containing ethanol (1.5 mL). The tube was flushed with nitrogen and tetrakis(triphenylphosphine)palladium (0.06 g, 0.054 mmol) was added. The tube was capped and heated to 130° C. for 30 min in a Personal Chemistry microwave. The reaction was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, reduced in vacuo and purified by flash chromatography on silica gel using a gradient of 0 to 10% methanol in dichloromethane to afford a yellow solid which recrystallized from ethyl acetate. Yield=0.066 g. MS (M+H)+ 397.

reactant | 4-(5-Bromothiophen-2-yl)-2-(2-(2-oxoimidazolidin-1-yl)ethylamino)pyrimidine-5-carbo-nitrile | 0.2 mmol, 0.08 g | BrC1=CC=C(S1)C1=NC(=NC=C1C#N)NCCN1C(NCC1)=O | C14H13BrN6OS
reactant | thiophen-2-ylboronic acid | 0.052 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 1 mmol, 2 M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.054 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-(2-oxoimidazolidin-1-yl)ethylamino)-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidine-5-carbonitrile | O=C1N(CCN1)CCNC1=NC=C(C(=N1)C=1SC(=CC1)C=1SC=CC1)C#N | C18H16N6OS2
